US04891375
B. 4-(4-(4-(4-(3-Benzisothiazolyl)piperazinyl)butyl)-phenyl)-thiazol-2-one
To a 125 ml round-bottomed flask equipped with condenser and N2 inlet were added 1.10 g (4.11 mmol) 4-(4-(4-chlorobutyl)phenyl)-thiazol-2-one, 0.90 g (4.11 mmol) N-(3-benzoisothiazolyl)piperazine, 0.87 g (8.22 mmol) sodium carbonate, 2 mg sodium iodide, and 40 ml methylisobutylketone. The reaction mixture was heated at reflux for 44 hours, cooled, filtered, and the filtrate was evaporated. The residue was chromatographed on silica gel using ethyl acetate as eluent, and the product fractions collected and evaporated. The residue was taken up in methylene chloride/methanol, treated with ether saturated with HCl, and evaporated. The resulting solid was triturated with acetone to afford 1.10 g (55%) of white solid, m.p. 140-145° C. NMR (DMSO-d6): 1.6-1.8 (m, 4H), 2.62 (t, 2H), 3.1-3.3 (m, 4H), 3.4-3.6 (m, 4H), 4.0-4.1 (m, 2H), 6.75 (d, 1H), 7.2-8.1 (m, 8H).

reactant | 4-(4-(4-chlorobutyl)phenyl)-thiazol-2-one | 4.11 mmol, 1.10 g | ClCCCCC1=CC=C(C=C1)C=1NC(SC1)=O | C13H14ClNOS
reactant | N-(3-benzoisothiazolyl)piperazine | 4.11 mmol, 0.90 g | S1N=C(C2=C1C=CC=C2)N2CCNCC2 | C11H13N3S
reactant | sodium carbonate | 8.22 mmol, 0.87 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | sodium iodide | 2 mg | [I-].[Na+]
solvent | methylisobutylketone | 40 ml | CC(=O)CC(C)C | C6H12O
product | 4-(4-(4-(4-(3-Benzisothiazolyl)piperazinyl)butyl)-phenyl)-thiazol-2-one | 1.10 g, 55% | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCCC2=CC=C(C=C2)C=2NC(SC2)=O | C24H26N4OS2
